US04128485
Preparation of N-(3-octadecanoyloxypropyl)-N,N-dimethyloctadecanaminium bromide.
To a solution of 0.2 mole octadecanoylchloride in 400 ml ethyl ether was added a solution of 32 g (0.31 mole) 3-dimethylamino-1-propanol in 50 ml ethyl ether. After stirring about 2 hours, the reaction mixture was filtered and the solid recrystallized from ethyl acetate. It was converted to the free base, 3-dimethylaminopropyl octadecanoate, with sodium hydroxide and recrystallized from acetonitrile. A mixture of 18.3 g (0.049 mole) of this amine and 16.2 g (0.049 mole) of 1-bromooctadecane was heated in an oven at 100° C. for 7 hours. After washing with ethyl ether to remove any unreacted material the product was recrystallized from ethyl alcohol and washed with ethyl acetate.

reactant | octadecanoylchloride | 0.2 mole | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | 3-dimethylamino-1-propanol | 0.31 mole, 32 g | CN(CCCO)C | C5H13NO
reactant | 1-bromooctadecane | 0.049 mole, 16.2 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | ethyl ether | 400 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | N-(3-octadecanoyloxypropyl)-N,N-dimethyloctadecanaminium bromide | [Br-].C(CCCCCCCCCCCCCCCCC)(=O)OCCC[N+](CCCCCCCCCCCCCCCCCC)(C)C | InChI=1S/C41H84NO2.BrH/c1-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-38-42(3,4)39-36-40-44-41(43)37-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-2;/h5-40H2,1-4H3;1H/q+1;/p-1
